US07737167B2
N-(5-Fluorobenzimidazol-2-yl)-1,2,3,4-tetrahydro-1-naphthylamine
The title compound was prepared from 4-fluorophenylenediamine and 1-isothiocyanato-1,2,3,4-tetrahydronaphthalene by Procedure D. The title compound was isolated by column chromatography as the free base and as a mixture of enantiomers (solid, mp 220-221° C.). MS(ES+) m/z 282 ([M+1]+, 100).

reactant | 4-fluorophenylenediamine | FC1=CC(=C(C=C1)N)N | C6H7FN2
reactant | 1-isothiocyanato-1,2,3,4-tetrahydronaphthalene | N(=C=S)C1CCCC2=CC=CC=C12 | C11H11NS
product | N-(5-Fluorobenzimidazol-2-yl)-1,2,3,4-tetrahydro-1-naphthylamine | FC1=CC2=C(N=C(N2)NC2CCCC3=CC=CC=C23)C=C1 | C17H16FN3
